US08455475B2
tert-Butyl 2-(pyridin-4-yl)-2,9-diazaspiro[5.5]undecane-9-carboxylate
tert-Butyl 2,9-diazaspiro[5.5]undecane-9-carboxylate (1 g, 3.931 mmol), 4-chloropyridinium chloride (1.765 g, 11.794 mmol) and N-ethyl-diisopropylamine (2.7 ml, 15.724 mmol) were refluxed in 2-propanol (8 ml) for 15 h, saturated NaHCO3 solution (20 ml) and ethyl acetate (8 ml) were added, the phases were separated and the aqueous phase was extracted with ethyl acetate (2×80 ml). The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica; ethyl acetate/methanol/ammonia (25 aq.) 100:10:0.25). Yield: 0.67 g (51.4%)

reactant | tert-Butyl 2,9-diazaspiro[5.5]undecane-9-carboxylate | 3.931 mmol, 1 g | C1NCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H26N2O2
reactant | 4-chloropyridinium chloride | 11.794 mmol, 1.765 g | [Cl-].ClC1=CC=[NH+]C=C1
reactant | N-ethyl-diisopropylamine | 15.724 mmol, 2.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | 2-propanol | 8 ml | CC(C)O | C3H8O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-(pyridin-4-yl)-2,9-diazaspiro[5.5]undecane-9-carboxylate | N1=CC=C(C=C1)N1CC2(CCC1)CCN(CC2)C(=O)OC(C)(C)C | C19H29N3O2
